US08440702B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-bromo-2′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one (79 mg, 0.123 mmol), (2-methylphenyl) boronic acid (25 mg, 0.182 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane adduct (10 mg, 0.0122 mmol), aqueous potassium hydroxide (82 μL, 3M, 0.246 mmol) and 1,4-dioxane (1 mL) were placed in a sealed tube and subjected to microwave irradiation at 140° C. for 15 minutes to complete the reaction. The crude reaction mixture was purified by preparative TLC on SiO2 (eluted with 30% Ethyl Acetate in hexanes) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6′-fluoro-2″-methyl-4-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one as a ckcar glass. LCMS calc.=655.16; found=656.11 (M+1)+. 1H NMR signals are doubled because of atropisomerism 1H NMR (CDCl3, 500 MHz) δ 7.86 (s, 1H), 7.73 (s, 1H), 7.72-7.66 (m, 2H), 7.48 (d, J=8 Hz, 1H), 7.41-7.36 (m, 1H), 7.29-7.23 (m, 4H), 7.19-7.23 (m, 3H), 5.56 (br s, 1H), 4.96 (br s, 1H), 4.13 (br d, J=46.5 Hz, 1H), 3.83 (br d, J=43.5 Hz, 1H), 2.29 (s, 3H), 0.56, 0.51 (br s, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-bromo-2′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.123 mmol, 79 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)Br)F)C)(F)F | C26H16BrF10NO2
reactant | (2-methylphenyl) boronic acid | 0.182 mmol, 25 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | potassium hydroxide | 0.246 mmol, 3M, 82 μL | [OH-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane | 0.0122 mmol, 10 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6′-fluoro-2″-methyl-4-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1F)C1=C(C=CC=C1)C)C)(F)F | C33H23F10NO2
